US07763614B2
Step A: 2-(2-Fluorobenzoyl)-4-methoxybenzoic acid (84)
4-(Methoxy)benzoic acid (5.00 g, 32.9 mmol) was azeotroped with toluene thrice, then dissolved in 80 mL of dry THF. TMEDA (10.9 mL, 72.3 mmol) was added, and the mixture was cooled to −78° C. sec-BuLi (51.6 mL of 1.40 M in cyclohexane, 72.3 mmol) was added dropwise over a period of 30 minutes, and the solution was stirred for 15 minutes. Methyl 2-fluorobenzoate (5.02 mL, 39.4 mmol) was added in 1 portion and, after stirring for 15 minutes, the reaction was quenched with 20 mL of water. The mixture was warmed to ambient temperature and poured into 1.5 L of water. 30 mL 1N NaOH was added and the aqueous layer was extracted 1× with EtOAc; after which the organic layer was discarded. The aqueous layer was acidified with conc. HCl until pH=1 and then extracted 2× with EtOAc. The combined organic extracts were dried with Na2SO4, filtered and concentrated in vacuo. The crude residue was purified by flash chomatography through SiO2 (40-100% EtOAc/hexane) to provide the desired product (4.72 g, 52% yield) as a white solid. ESI+MS: 275.2 [M+H+].

reactant | 4-(Methoxy)benzoic acid | 32.9 mmol, 5.00 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | TMEDA | 72.3 mmol, 10.9 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-BuLi | 72.3 mmol, 1.40 M, 51.6 mL | [Li]C(C)CC
reactant | Methyl 2-fluorobenzoate | 39.4 mmol, 5.02 mL | FC1=C(C(=O)OC)C=CC=C1 | C8H7FO2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Fluorobenzoyl)-4-methoxybenzoic acid | 4.72 g, 52% yield | FC1=C(C(=O)C2=C(C(=O)O)C=CC(=C2)OC)C=CC=C1 | C15H11FO4
